US04087410
The process of claim 1, said process comprising reacting 2,6-dimethoxyphenol with 1,1-dimethyl-1-heptanol in the presence of methanesulfonic acid to provide 1-hydroxy-2,6-dimethoxy-4-(1,1-dimethylheptyl)benzene; reacting said 1-hydroxy-2,6-dimethoxy-4-(1,1-dimethylheptyl)benzene with a halogenated disubstituted phosphite to provide a 2,6-dimethoxy-4-(1,1-dimethylheptyl)phenyl disubstituted phosphate; reacting said 2,6-dimethoxy-4-(1,1-dimethylheptyl)phenyl disubstituted phosphate with an alkali metal to afford 1-(1,1-dimethylheptyl)-3,5-dimethoxybenzene; reacting said 1-(1,1-dimethylheptyl)-3,5-dimethoxybenzene with boron tribromide to provide 5-(1,1-dimethylheptyl)-resorcinol, and recovering said 5-(1,1-dimethylheptyl)-resorcinol therefrom.

reactant | 2,6-dimethoxyphenol | COC1=C(C(=CC=C1)OC)O | C8H10O3
reactant | 1,1-dimethyl-1-heptanol | CC(CCCCCC)(O)C | C9H20O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | 1-hydroxy-2,6-dimethoxy-4-(1,1-dimethylheptyl)benzene | OC1=C(C=C(C=C1OC)C(CCCCCC)(C)C)OC | C17H28O3
